Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Difficulty with speaking and right sided weakness.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo man with history of HTN and tobacco use who 
presents from ___ with acute aphasia.

His girlfriend called him at ___ this am, and his speech didn't 
make sense. She then went to his house, and "He kept saying to 
hold on and then starting talking about all different subjects, 
not making sense". He was brought to ___, where ___ 
showed late acute/early subacute infarct in the left frontal 
lobe. CTA without large vessel occlusion nor significant 
stenosis. He was found to be in afib/aflutter. One ECG shows 
aflutter with variable conduction, tele shows afib. 

Of note, he was diagnosed with RLE DVT 6 weeks ago while in 
___. Girlfriend states he was given sample of a blood 
thinner, which he ran out of two weeks ago. He has not followed 
up with PCP since returning to ___ and therefore has been off 
anticoagulation for the past two weeks. 

 
Past Medical History:
BENIGN NEOPLASM LG BOWEL 
CARDIOMEGALY 
DIVERTICULOSIS COLON (W/O MENT OF HEMORRHAGE) 
HYPERCHYLOMICRONEMIA 
HYPERTENSION NOS 
OTH MED,LT,CURRENT USE 
ED

 
Social History:
___
Family History:
Patient with 2 brothers with strokes. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
PHYSICAL EXAMINATION
Vitals:  T: 98.2 HR: 94 BP: 147/109 RR: 17 SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac: irregularly irregular, tachycardic. Skin warm, 
well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, unable to answer orientation 
questions. Unable to relate history. Attends examiner. 
Nonfluent, puts together ___ word phrases at most. Names high 
but not low frequency objects. Follows simple appendicular 
commands, but when asked to touch L thumb to R ear, he takes R 
digit 2 and touches his L toes. Unable to read. Repeats up to 
___ word phrases but not grammatically complex phrases.  Normal 
prosody. 

-Cranial Nerves: Anisicoria, R 3.5->2.5, L 3->2. VFF to 
confrontation. EOMI without nystagmus. Facial sensation intact 
to light touch. R NLFF and delayed activation of R lower face. 
Hearing intact to conversation. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift nor orbiting. No tremor 
nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                  
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   2                        
 R  2  2    2    2   2                           
Plantar response was flexor bilaterally.

-Sensory: With LT, endorses decreased sensation RLE. With temp, 
he says 'yes' when asked both is RLE the same as LLE or are they 
different. Unable to participate in proprioception testing. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred

DISCHARGE PHYSICAL THERPY: 
Vitals: 
Temperature: 98.2 
Blood pressure: 125/78 - 129/93 
Heart Rate: 73 - 78 
Respiratory Rate: 18 
Oxygen therapy: 98 - 99% 

Physical Exam:
General: Comfortable appearing, NAD
HEENT: No irritation or exudate from eyes, nose, and throat
Neck: No pain with flexion and extension. 
Pulmonary: Breathing comfortably, no tachypnea or increase WOB, 
CTAB
Cardiac: Irregularly irregular, no murmurs
Abdominal: Soft, non tender, bowel sounds present
Extremities: Right lower extremity slightly larger, trace edema, 
warm/well perfused

Neurologic Exam: 
Mental status: 
Patient is alert.  He knows name, but even after repeated days 
of testing does not know location and date.  Patient with 
improved repetition with no difficulty repeating short phrases 
and able to complete long phrases with minimal difficulty.  
Patient can name low frequency object, but not high frequency 
objects.  Patient cannot do days of the weak or months of the 
year forward or backward.  Patient can read short three words 
sentences, but on longer sentences he starts substituting words. 
 Patient cannot write, even his name.  ___ can spell RADIO 
forward, but not backward. Patient on the cookie jar picture 
favors the right side of the picture and states that "child is 
falling down looking for cookies", but when we direct him to the 
left side of the picture, which he does not do spontaneously he 
states that it is a "mom doing dishes.  Patient does not note 
that water is overflowing to the floor.  

Cranial Nerves:
I: Not tested
II: ___ to light with 3.5 to 2.5 mmm.  VFF to confrontation
III, IV, VI: EOMI with no ptosis. 
VII: R NLFF, delayed activation. 
VIII: Hears finger rub bilaterally
IX, X: Palate elevates symmetrically
XI: Mild weaker SCM on right, ___ trapezii bilaterally
XII: Tongue protrudes midline

Motor:
  Delt   Bi   Tri   WE   WF   FE   IP   Quad   Ham   TA   
Gastroc
L 5      5     5    5    5    5     5    5     5     5    5 
R 5      5     5    5    5    5    5-    5     5     5    5

Sensory: 
Symmetric sensation to LT. No extinguishing to double stimuli.

DTRs: 
___ 2+. ___ down going bilaterally.

Coordination: 
No dysmetria with finger to nose testing bilaterally

Gait: 
Narrow based, steady, turns well

Motor:
  Delt   Bi   Tri   WE   WF   FE   IP   Quad   Ham   TA   
Gastroc
L 5      5     5    5    5    5     5    5     5     5    5 
R 5      5     5    5    5    5    5-    5     5     5    5

-DTRs: 2+ bi, tri, patellar, achilles. Toes down going 
bilaterally.
-Sensory: Symmetric sensation to LT. No extinguishing to double 
stimuli
-Coordination: no dysmetria with finger to nose testing 
bilaterally
-Gait: narrow base, steady, turns well

 
Pertinent Results:
A1C - 7.5% 
LDL - 137 
TSH - 0.97 

MRI Brain ___: 
1. Acute to early subacute infarct within the left frontal and 
parietal 
operculum, without evidence of hemorrhagic transformation. 
2. Two small foci of susceptibility artifact, one within the 
right superior frontal gyrus and another within the right 
cerebellar hemisphere likely reflect chronic microhemorrhage. 

Echo ___: 
No thrombus and no patent foramen ovale.  LVEF: 50-55%. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old right-handed male whom had a stroke 
with resulting, yet improving, transcortical motor aphasia whom 
has many stroke risk factors including prior right lower 
extremity deep venous thrombosis, paroxysmal atrial 
fibrillation, hypertension, hyperlipidemia, diabetes, type II, 
and tobacco use. 

Left frontoparietal stroke: 
- Rivaroxaban 20 mg daily 
- Atorvastatin 80 mg daily 
- Telemetry with atrial fibrillation 
- TTE with no thrombus of patent foramen ovale
- Distributed stroke education packet and offered smoking 
cessation
- Discharged with order for speech/occupational therapy 
- Discussed importance of smoking cessation 
- Number provided for stroke follow up

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL =137) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

Paroxysmal atrial fibrillation (CHADSVASC = 4):
- Rivaroxaban 20 mg daily 
- Metoprolol 6.25 mg twice daily
- Discharged with PCP appointment

___
- Amlodipine 5 mg daily
- Metoprolol 6.25 mg twice daily 
- Discharged with PCP appointment

___
- Atorvastatin 80 mg daily 
- Encouraged heart healthy diet
- Discharged with PCP appointment

___
- Metformin 500 mg twice daily
- Encouraged diabetic diet
- Discharged with ___ appointment

Tobacco Use
- Advised discontinuation at multiple times 
- Did not want patches 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine (Extended Release) 30 mg PO DAILY 
2. tadalafil 5 mg oral DAILY:PRN 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY Hypertension 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 80 mg PO QPM HLD 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3 
3.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin [Glucophage] 500 mg 1 tablet(s) by mouth Twice 
daily Disp #*60 Tablet Refills:*3 
4.  Metoprolol Tartrate 6.25 mg PO BID 
RX *metoprolol tartrate 25 mg ___ tablet(s) by mouth Twice daily 
Disp #*15 Tablet Refills:*3 
5.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
6.  tadalafil 5 mg oral DAILY:PRN  
7.Outpatient Speech/Swallowing Therapy
Prescription for outpatient speech therapy. 
8.Outpatient Occupational Therapy
Order for outpatient occupational therapy. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left frontoparietal stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

During this admission, you presented with difficulty speaking 
and were found to have a stroke.  We expect that your difficulty 
with producing words will improve over the next coming weeks to 
months.  We have ordered outpatient occupational therapy and 
speech therapy to help maximize your recovery.  We found that 
you have numerous risk factors for stroke during this admission 
and want to help you so that you do not have another stroke.  
Firstly, your heart has an abnormal rhythm, called atrial 
fibrillation, which can cause clots to form in your heart that 
can then move to the brain and cause stroke.  For this, we have 
started you on two drugs: metoprolol (which helps control your 
heart rate) and rivaroxaban (which thins your blood and helps 
prevent clot development).  Secondly, for your high blood 
pressure, we have started you on a medication called amlodipine 
which leads to reduction in blood pressure.  For these two 
problems you will need to follow up with a primary care 
physician, and we have scheduled you an appointment below.  
Thirdly, you have diabetes and have been started on metformin 
which works to reduce your blood sugar level. Fourthly, you have 
high cholesterol in the blood and have been started on 
atorvastatin which helps to lower cholesterol.  

In addition, to the above medications there are things that you 
can do to help reduce the risk of stroke and to in general 
promote healthy living.  Please discontinue smoking tobacco.  
Not only do cigarettes increase the risk of stroke, but they 
also increase risk of other medical conditions including making 
hypertension worse and cancer.  Please eat a diabetic diet which 
includes avoiding carbohydrates and foods rich in sugar.  
Finally, try to get regular exercise and engage in mobile 
activities.   

Starting so many new medications, making lifestyle 
modifications, and having doctors ___ be 
challenging, but this is all important to prevent future stroke 
and other medical conditions.  We know you can do it! We have 
set you up with a visiting nurse to help with the medications.

We would like for you to follow up with our stroke team as an 
outpatient, and the number to schedule an appointment is 
provided below. 

Thank you for allowing use to care for you, 
___ Stroke Team 
 
Followup Instructions:
___